US04555263
(i) Chlorosulfonic acid (9.5 ml) was added dropwise to a solution of 3-hydroxy-5-[4-(methylthio)-phenyl]-2-propionylcyclohex-2-en-1-one (2.4 g) in chloroform (18 ml) at 0° C. After 15 hr, the solution was warmed to ambient temperature and after a further 3 hr the mixture was poured onto ice. The resulting mixture was extracted with dichloromethane and the organic extract was washed with water. Evaporation of the solvent gave 3-hydroxy-5-[3-chlorosulfonyl-4-(methylthio)phenyl]-2-propionylcyclohex-2-en-1-one (2.42 g). Pmr spectrum (CDCl3 ; δ in ppm): 1.14 (3H, t); 2.61 (3H, t); c.a. 2.6-3.68 (7H, m); 7.39-7.70 (2H, m); 7.94 (1H, s); 18.20 (1H, s).

reactant | Chlorosulfonic acid | 9.5 ml | ClS(=O)(=O)O | ClHO3S
reactant | 3-hydroxy-5-[4-(methylthio)-phenyl]-2-propionylcyclohex-2-en-1-one | 2.4 g | OC1=C(C(CC(C1)C1=CC=C(C=C1)SC)=O)C(CC)=O | C16H18O3S
solvent | chloroform | 18 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-hydroxy-5-[3-chlorosulfonyl-4-(methylthio)phenyl]-2-propionylcyclohex-2-en-1-one | 2.42 g | OC1=C(C(CC(C1)C1=CC(=C(C=C1)SC)S(=O)(=O)Cl)=O)C(CC)=O | C16H17ClO5S2
